US07629346B2
6-(4-Chloro-phenyl)-5-cyclopentylmethoxy-pyrazine-2-carboxylic acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide
The title compound was prepared in analogy to example 26 starting from 5-bromo-6-(4-chloro-phenyl)-pyrazine-2-carboxylic acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide and replacing ethylenglycolmonomethylether by cyclopentylmethanol. MS (ISP) (M+H+)=430.1.

reactant | 5-bromo-6-(4-chloro-phenyl)-pyrazine-2-carboxylic acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide | O[C@H]1[C@@H](CCCC1)NC(=O)C1=NC(=C(N=C1)Br)C1=CC=C(C=C1)Cl | C17H17BrClN3O2
reactant | cyclopentylmethanol | C1(CCCC1)CO | C6H12O
product | 6-(4-Chloro-phenyl)-5-cyclopentylmethoxy-pyrazine-2-carboxylic acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide | O[C@H]1[C@@H](CCCC1)NC(=O)C1=NC(=C(N=C1)OCC1CCCC1)C1=CC=C(C=C1)Cl | C23H28ClN3O3
